US08258160B2
Synthesis of N-benzyl-2-(4-(benzylcarbamoyl)-5-methyl-1H-1,2,3-triazol-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 18, making variations as necessary to replace 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-1H-1,2,3-triazole-4-carboxylic acid with 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-5-methyl-1H-1,2,3-triazole-4-carboxylic acid to react with benzylamine, the title compound was obtained as a white solid in 11% yield (0.033 g): mp 183-186° C. (methanol); 1H NMR (300 MHz, DMSO-d6) δ 9.30 (t, J=6.0 Hz, 1H), 9.01 (t, J=6.0 Hz, 1H), 7.36-7.22 (m, 10H), 4.46 (d, J=6.0 Hz, 4H), 2.90 (s, 3H), 2.64 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 160.1, 159.9, 155.1, 152.4, 139.4, 139.2, 138.9, 137.5, 128.3, 128.2, 127.3, 127.2, 126.9, 126.7, 125.1, 42.8, 41.9, 17.2, 10.3; MS (ES+) m/z 447.4 (M+1).

reactant | 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-1H-1,2,3-triazole-4-carboxylic acid | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C(=O)O)C | C15H13N5O3S
reactant | 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-5-methyl-1H-1,2,3-triazole-4-carboxylic acid | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1C)C(=O)O)C | C16H15N5O3S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-2-(4-(benzylcarbamoyl)-5-methyl-1H-1,2,3-triazol-1-yl)-4-methylthiazole-5-carboxamide | 11% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1C)C(NCC1=CC=CC=C1)=O)C | C23H22N6O2S
